US05250669
(1) Synthesis of 1,7-bis(4-methoxyphenyl)-3,5-heptanedione
Using 2,4-pentanedione (37.3 g, 0.37 mol) and 4-methoxybenzyl chloride (133 g), the reaction was carried out in the same manner as described in Example 17, (1), and the solid residue was purified by recrystalization from ethanol to give the title compound as pale yellow microneedles which were not shown any methylene singlet at δ3.0-4.0 ppm in the 1HNMR spectrum; yield: 95.1 g; mp 73.5°-76.2° C.

reactant | 2,4-pentanedione | 0.37 mol, 37.3 g | CC(CC(C)=O)=O | C5H8O2
reactant | 4-methoxybenzyl chloride | 133 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
product | 1,7-bis(4-methoxyphenyl)-3,5-heptanedione | COC1=CC=C(C=C1)CCC(CC(CCC1=CC=C(C=C1)OC)=O)=O | C21H24O4
